US04689348
A solution of 12.3 g of N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)-S-methylisothiourea and 20 ml of 33% ethanolic methylamine in 200 ml of ethanol was heated at reflux with stirring for 22 hours. The solvent was then removed by evaporation in vacuo, leaving the crude product as a glassy, amorphous solid. Crystallization from a mixture of isopropyl acetate, methylcyclohexane and 2-propanol gave 7.03 g of N"-cyano-N-methyl-N'-(1,2,3,4-tetrahydro-1-naphthyl)guanidine as a white, crystalline solid, mp 169°-170° C.

reactant | N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)-S-methylisothiourea | 12.3 g | C(#N)N=C(NC1CCCC2=CC=CC=C12)SC | C13H15N3S
reactant | methylamine | 20 ml | CN | CH5N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N"-cyano-N-methyl-N'-(1,2,3,4-tetrahydro-1-naphthyl)guanidine | 7.03 g | C(#N)N=C(NC)NC1CCCC2=CC=CC=C12 | C13H16N4
